US07465731B2
To a solution of ethyl (2E)-3-{6-[[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl) amino]-3-pyridyl}acrylate (5.45 g) in toluene (55 ml) was added 1-chloroethyl chloroformate (2.59 g) at room temperature and stirred at 20° C. for 1 hour. 1-Chloroethyl chloroformate (795 mg) and N,N-diisopropylethylamine (0.736 ml) was added to the mixture, and the solution was stirred at 20° C. for 15 minutes. After it was concentrated under reduced pressure, the resulting residue was dissolved in EtOH (70 ml). The mixture was stirred at 65° C. for 30 minutes, and concentrated under reduced pressure. The residue was poured into a mixture of aq NaHCO3 solution (80 ml) and dichloromethane (100 ml). The organic layer was separated and dried over sodium sulfate, and evaporated under reduced pressure to give crude oil. The oil was purified by column chromatography (silica gel 125 g, dichloromethane/MeOH (60/1 to 15/1) to give ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate as oil (2.0 g).

reactant | ethyl (2E)-3-{6-[[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl) amino]-3-pyridyl}acrylate | 5.45 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)C(=O)OC(C)(C)C | C26H33N3O4
reactant | 1-chloroethyl chloroformate | 2.59 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-Chloroethyl chloroformate | 795 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | N,N-diisopropylethylamine | 0.736 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 2.0 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1 | C19H27N3O4
